US07345180B2
The 4-methyl-4-nitropentanoic acid (4.3 g) obtained above was dissolved in dichloromethane, and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (6.1 g) and triethylamine (4.5 ml) were added thereto and stirred for 1 hour. Benzylamine (3.4 g) was added thereto and stirred for 1 day. Water was added to the reaction mixture which was then acidified by 2 N hydrochloric acid and extracted with chloroform. The organic phase was washed with a saturated sodium bicarbonate solution and a saturated saline solution and dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure, and the residue was purified by column chromatography (eluting solvent; ethyl acetate:n-hexane 1:1.5) to give N-benzyl-4-methyl-4-nitropentanoic acid amide (2.5 g, Y.:38%) as a colorless oil.

reactant | 4-methyl-4-nitropentanoic acid | 4.3 g | CC(CCC(=O)O)(C)[N+](=O)[O-] | C6H11NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 6.1 g | Cl.CN(CCCN=C=NCC)C
reactant | Benzylamine | 3.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
product | N-benzyl-4-methyl-4-nitropentanoic acid amide | 2.5 g, 38% | C(C1=CC=CC=C1)NC(CCC(C)([N+](=O)[O-])C)=O | C13H18N2O3
